US05489602
To a solution of 5-iodo-2-[2-(5-methyl-2-phenyl-4-oxazolyl) ethoxy]pyridine (2.5 g) in tetrahydrofuran (40 ml), a solution of n-butyl lithium in hexane (1.6M, 4.61 ml) was added dropwise at -65° C. in a nitrogen stream. After the mixture was stirred at the same temperature for 15 minutes, N,N-dimethylformamide (0.71 ml) was added dropwise. After the cooling bath was removed and the mixture was stirred for 30 more minutes, a saturated aqueous solution of ammonium chloride (6 ml) was added. The reaction mixture was poured into water and extracted with ethyl acetate. After the ethyl acetate layer was washed with water and dried (MgSO4), the solvent was distilled off under reduced pressure, to yield 5-formyl-2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]pyridine (1.5 g, 79%), which was then recrystallized from ethyl acetate-hexane to yield a colorless crystal.

reactant | 5-iodo-2-[2-(5-methyl-2-phenyl-4-oxazolyl) ethoxy]pyridine | 2.5 g | IC=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15IN2O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | N,N-dimethylformamide | 0.71 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M, 4.61 ml | CCCCCC | C6H14
product | 5-formyl-2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]pyridine | 1.5 g, 79% | C(=O)C=1C=CC(=NC1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C18H16N2O3
